US04713474
A similar procedure to Example 1 is carried out by using 16.6 g of ethyl p-hydroxybenzoate and 8.5 g of glutaric acid dichloride to yield di(p-ethyloxycarbonylphenyl)glutarate, m.p. 81°-82° C., as white crystals.

reactant | ethyl p-hydroxybenzoate | 16.6 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | glutaric acid dichloride | 8.5 g | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
product | di(p-ethyloxycarbonylphenyl)glutarate | C(C)OC(=O)C1=CC=C(C=C1)OC(CCCC(=O)OC1=CC=C(C=C1)C(=O)OCC)=O | C23H24O8
